US06812225B2
8-Bromo-6-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester
A brown solution of 8-bromo-6-methoxy-4-oxo-1,4-dihydro-quinoline-2-carboxylic acid methyl ester (6.73 g, 21.6 mmol) in 100 mL N-methyl pyrolidinone was treated with sodium hydride (60% dispersion in oil, 1.028 g, 25.7 mmol). Gas evolution and warming were observed. The reaction was stirred for 10 minutes at room temperature under nitrogen. Addition of 2-(trimethylsilyl)ethoxymethyl chloride (5.00 mL, 28.3 mmol) resulted in a slightly cloudy, light brown solution. After 2.5 hours at room temperature, the reaction mixture was poured into 800 mL water and stirred for 15 minutes. The resulting cream colored precipitate was isolated by filtration, washed with water, and dried under high vacuum to afford the product as a cream colored solid (9.70 g, quantitative yield). 1H NMR (300 MHz, DMSO, d6) δ 7.976 (d, 1H, Jm=2.7 Hz, ArH7), 7.79 (s, 1H, C═CH), 7.53 (d, 1H, Jm=2.7 Hz, ArH5), 5.70 (s, 2H, OCH2O), 3.99 (s, 6H, OCH3 and CO2CH), 3.88 (t, 2H, J=8.0 Hz, OCH2CH2Si), 0.97 (t, 2H, J=8.0 Hz, OCH2CH2Si), −0.04 (s, 9H, Si(CH3)3; Mass Spec.: calc. for [C18H24BrNO5Si+H]+ Theor. m/z=442, 444; Obs. 442, 444.

reactant | 8-bromo-6-methoxy-4-oxo-1,4-dihydro-quinoline-2-carboxylic acid methyl ester | 21.6 mmol, 6.73 g | COC(=O)C=1NC2=C(C=C(C=C2C(C1)=O)OC)Br | C12H10BrNO4
reactant | sodium hydride | 25.7 mmol, 1.028 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 28.3 mmol, 5.00 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | water | 800 mL | O | H2O
solvent | N-methyl pyrolidinone | 100 mL | CN1CCCC1=O | C5H9NO
product | 8-Bromo-6-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester | 9.70 g, quantitative yield | COC(=O)C1=NC2=C(C=C(C=C2C(=C1)OCOCC[Si](C)(C)C)OC)Br | C18H24BrNO5Si
